US04228168
10.3 g of N-methyl-tryptamine (i.e., 3-(2-methylaminoethyl)-indole) and 11.7 g of 4-methoxycarbonylbutyryl chloride were treated in the same manner as described in Example 1. 16.6 g of N-methyl-N-(4-methoxycarbonylbutyryl)-tryptamine (i.e., 3-[2-(N-methyl-4-methoxycarbonylbutanamido)ethyl]indole) were therby obtained. Yield: 92.8%

reactant | N-methyl-tryptamine | 10.3 g | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
reactant | 4-methoxycarbonylbutyryl chloride | 11.7 g | COC(=O)CCCC(=O)Cl | C6H9ClO3
product | N-methyl-N-(4-methoxycarbonylbutyryl)-tryptamine | 16.6 g, Yield: 92.8% | CN(CCC1=CNC2=CC=CC=C12)C(CCCC(=O)OC)=O | C17H22N2O3
